US07842685B2
To a solution of 1-benzhydrylazetidin-3-ol (20 g, 0.835 mol) in pyridine (167 mL) was added DMAP (12.24 g, 0.1 mM) and p-toluene sulphonylchloride at −40° C. The reaction mixture was stirred overnight. The reaction mixture was partitioned between dichloromethane (200 mL) and water. Solvent was evaporated off, purified by column chromatography using silica gel, 100-200 mesh) and 10% ethyl acetate hexane as eluent to obtain 1-benzhydryl-3-(toluene-4-sulfonyl)-azetidine. 1H-NMR (400 MHz, CDCl3,), δ ppm 7.76-7.74 (m, 2H), 7.34-7.15 (m, 12H), 4.89-4.85 (m, 1H), 4.32 (s, 1H), 3.47-3.43 (m, 2H), 3.06-3.03 (m, 2H), 2.43 (s, 3H).

reactant | 1-benzhydrylazetidin-3-ol | 0.835 mol, 20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | p-toluene sulphonylchloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 167 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.1 mM, 12.24 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-benzhydryl-3-(toluene-4-sulfonyl)-azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)S(=O)(=O)C1=CC=C(C=C1)C | C23H23NO2S
